US04940696
(a) 4-bromo-2-tert.butyl anisole
3.10 g (22.6 mmol) of aluminum chloride are added all at once to a mixture of 63.5 g (339 mmol) of p-bromoanisole and 31.4 g (330 mmol) of tert.butyl chloride. The mixture is stirred at ambient temperature until the evolution of gas ceases (about 15 minutes). The mixture is then heated at 80° C. for 15 minutes and poured into ice. 300 ml of water are added and the mixture is extracted with ether.

reactant | aluminum chloride | 22.6 mmol, 3.10 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | p-bromoanisole | 339 mmol, 63.5 g | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | tert.butyl chloride | 330 mmol, 31.4 g | C(C)(C)(C)Cl | C4H9Cl
solvent | water | 300 ml | O | H2O
product | 4-bromo-2-tert.butyl anisole | BrC1=CC(=C(C=C1)OC)C(C)(C)C | C11H15BrO
